US07504399B2
TsOH—H2O (1 g) was added into a solution of N-Boc piperazine (50 g) and 3-oxo-3-phenylpropanenitrile (19.49 g) in benzene (200 ml). The reaction mixture was heated up to 115° C. for 16 hours and resultant water was collected by Dean-Stark trap. After the solution was concentrated, a residue was obtained and further purification using silica gel chromatography provided tert-butyl 4-(2-cyano-1-phenylvinyl)piperazine-1-carboxylate. 1H NMR (500 MHz, CD3OD) δ7.91 (m, 5H), 5.24 (s, 1H), 3.89-3.50 (m, 8H), 1.88 (s, 9H); 13C NMR (125 MHz, CD3OD) δ167.6, 155.7, 135.4, 130.6, 129.4, 121.8, 81.1, 67.1, 45.4, 28.0. MS m/z: (M+H)+ calcd for C18H24N3O2 314.19, found 314.25. Retention time 1.81 min (column D).

reactant | TsOH—H2O | 1 g | S(=O)(=O)(C1=CC=C(C)C=C1)O.O
reactant | N-Boc piperazine | 50 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 3-oxo-3-phenylpropanenitrile | 19.49 g | O=C(CC#N)C1=CC=CC=C1 | C9H7NO
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | tert-butyl 4-(2-cyano-1-phenylvinyl)piperazine-1-carboxylate | C(#N)C=C(C1=CC=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H23N3O2
